US06399629B1
Compound M40: (2S,4R)-4-(Aminomethyl)-N-methyl-N-[(1R)-3-methyl-1-(6-ethyl-3-quinolylcarbamoyl)butyl]-2-pyrrolidinecarboxamide
This compound was prepared as for Compound M15, replacing N-tert-butoxycarbonyl-D-homophenylalanine with N-tert-butoxycarbonyl-N-methyl-D-leucine (made by treantment of N-tert-butoxycarbonyl-D-leucine with excess sodium hydride and methyl iodide in 1TF), trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline with trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline and coupling with 3-amino-6-ethylquinoline inst of 3-aminoquinoline.

reactant | N-tert-butoxycarbonyl-N-methyl-D-leucine | C(C)(C)(C)OC(=O)N([C@H](CC(C)C)C(=O)O)C | C12H23NO4
reactant | N-tert-butoxycarbonyl-D-leucine | C(C)(C)(C)OC(=O)N[C@H](CC(C)C)C(=O)O | C11H21NO4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H29N3O7
reactant | trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline | C(C)(C)(C)OC(=O)NC[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C16H28N2O6
reactant | 3-amino-6-ethylquinoline | NC=1C=NC2=CC=C(C=C2C1)CC | C11H12N2
reactant | 3-aminoquinoline | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
product | (2S,4R)-4-(Aminomethyl)-N-methyl-N-[(1R)-3-methyl-1-(6-ethyl-3-quinolylcarbamoyl)butyl]-2-pyrrolidinecarboxamide | NC[C@H]1C[C@H](NC1)C(=O)N([C@H](CC(C)C)C(NC=1C=NC2=CC=C(C=C2C1)CC)=O)C | C24H35N5O2
